US04785017
A solution of 1.8 g of racemic-3,4-dihydro-6-(phenylmethoxy)-2H-1-benzopyran-2-ol and 2.6 g of (carbethoxymethylene)triphenylphosphorane in 20 ml of toluene was stirred and refluxed for 22 hours. The solution was cooled and placed on a column of 50 g of silica gel packed in toluene. Elution with toluene and 19:1 toluene-ethyl acetate gave 1.7 g (74.2%) of racemic-3,4-dihydro-6-(phenylmethoxy)-2H-1-benzopyran-2-acetic acid ethyl ester as a pale-yellow oil. This material was dissolved in 25 ml of absolute ethanol and the solution was stirred in the presence of 0.2 g of 10% palladium on carbon, at room temperature, in an atmosphere of hydrogen. After 1.5 hours, hydrogen uptake ceased and the catalyst was removed by filtration. The filtrate was concentrated in vacuo to give 1.2 g (97.6%) of racemic-3,4-dihydro-6-hydroxy-2H-1-benzopyran-2-acetic acid ethyl ester as a pale-yellow oil.

reactant | racemic-3,4-dihydro-6-(phenylmethoxy)-2H-1-benzopyran-2-ol | 1.8 g | C1(=CC=CC=C1)COC=1C=CC2=C(CCC(O2)O)C1 | C16H16O3
reactant | (carbethoxymethylene)triphenylphosphorane | 2.6 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | racemic-3,4-dihydro-6-(phenylmethoxy)-2H-1-benzopyran-2-acetic acid ethyl ester | 1.7 g, 74.2% | C(C)OC(CC1OC2=C(CC1)C=C(C=C2)OCC2=CC=CC=C2)=O | C20H22O4
